US08791107B2
PREPARATION x63: (R)-4-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)cyclohexanol
To (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 250 mg, 1.103 mmol) and 4-hydroxycyclohexanone (126 mg, 1.103 mmol) in CH2Cl2 (8 mL) was added titanium(IV) chloride in CH2Cl2 (1M, 2.427 mL, 2.427 mmol) dropwise to give an orange suspension. The reaction mixture was stirred at ambient temperature for 4 hours and then cooled to 0° C. Sodium triacetoxyhydroborate (514 mg, 2.427 mmol) was added in two portions. The reaction mixture was stirred for 1 hour and then quenched with aqueous saturated NH4Cl (1 mL). The reaction mixture was diluted with ethyl acetate and washed with aqueous saturated NH4Cl (3×10 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was then loaded onto an ISCO® silica gel cartridge (12 g) and eluted using an ethyl acetate/hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a colorless foam (30 mg, 8%). ESI-MS m/z [M+H]+ calc'd for C15H21ClN4O2, 325.14. found 325.2.

reactant | (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 1.103 mmol, 250 mg | ClC1=NC=2N3[C@H](CNC2C=N1)COCC3 | C9H11ClN4O
reactant | 4-hydroxycyclohexanone | 1.103 mmol, 126 mg | OC1CCC(CC1)=O | C6H10O2
reactant | Sodium | [Na] | Na
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium(IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | CH2Cl2 | 2.427 mmol, 1M, 2.427 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)cyclohexanol | 30 mg, 8% | ClC1=NC=2N3[C@H](CN(C2C=N1)C1CCC(CC1)O)COCC3 | C15H21ClN4O2
